US09328134B2
Boron trifluoride diethyl etherate (0.079 mL, 0.644 mmol, commercially available from Sigma Aldrich) and triethylsilane (0.103 mL, 0.644 mmol, Sigma Aldrich) were added to a stirred solution of diethyl (((2S,3S,4R,5R,6S)-3,4,5-tris(benzyloxy)-2-hydroxy-6-methyltetrahydro-2H-pyran-2-yl)methyl)phosphonate (0.251 g, 0.429 mmol) in acetonitrile (2 mL) at 0° C. under an argon atmosphere. The reaction mixture was then stirred at 0° C. for 5 h. The reaction mixture was next partitioned between EtOAc and saturated aqueous sodium bicarbonate. The organic layer was separated, dried over anhydrous magnesium sulfate, filtered, and concentrated in vacuo. The resulting oil was purified by silica gel chromatography (30 to 100% EtOAc/hexanes gradient) to give diethyl (((2S,3S,4R,5R,6S)-3,4,5-tris(benzyloxy)-6-methyltetrahydro-2H-pyran-2-yl)methyl)phosphonate as a colorless oil (0.220 g, 90% yield). 1H NMR (400 MHz, CDCl3): δ ppm 1.14 (d, J=6.26 Hz, 3 H) 1.26 (td, J=7.04, 1.96 Hz, 6 H) 1.92 (td, J=15.75, 9.78 Hz, 1 H) 2.29 (ddd, J=19.95, 15.36, 1.47 Hz, 1 H) 3.53 (q, J=6.39 Hz, 1H) 3.56-3.70 (m, 4 H) 3.98-4.11 (m, 4 H) 4.63-4.77 (m, 4 H) 4.97 (dd, J=11.44, 1.86 Hz, 2 H) 7.26-7.39 (m, 15 H).

reactant | Boron trifluoride diethyl etherate | B(F)(F)F.CCOCC
reactant | triethylsilane | 0.644 mmol, 0.103 mL | C(C)[SiH](CC)CC | C6H16Si
reactant | diethyl (((2S,3S,4R,5R,6S)-3,4,5-tris(benzyloxy)-2-hydroxy-6-methyltetrahydro-2H-pyran-2-yl)methyl)phosphonate | 0.429 mmol, 0.251 g | C(C1=CC=CC=C1)O[C@@H]1[C@@](O[C@H]([C@H]([C@H]1OCC1=CC=CC=C1)OCC1=CC=CC=C1)C)(O)CP(OCC)(OCC)=O | C32H41O8P
solvent | acetonitrile | 2 mL | C(C)#N | C2H3N
product | diethyl (((2S,3S,4R,5R,6S)-3,4,5-tris(benzyloxy)-6-methyltetrahydro-2H-pyran-2-yl)methyl)phosphonate | 0.220 g, 90% yield | C(C1=CC=CC=C1)O[C@@H]1[C@H](O[C@H]([C@H]([C@H]1OCC1=CC=CC=C1)OCC1=CC=CC=C1)C)CP(OCC)(OCC)=O | C32H41O7P
